US07674789B2
3-[8-(2,6-difluorophenyl)-7-oxo-2-(1-pyrrolidinyl)-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide
To a solution of compound 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide (50 mg, 0.10 mmol) in DCM (5 mL) was added pyrrolidine (0.025 mL, 0.30 mmol). The resultant solution was stirred at room temperature over night. The result mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM[90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (34 mg, 67%). LC-MS m/z 507 (M+H)+; 1H-NMR (MeOD) δ 1.27 (d, 6H), 1.87 (m, 4H), 2.31 (s, 3H), 3.33 (m, 4H), 4.11 (m, 2H), 4.23 (m, 1H), 7.13 (t, 2H), 7.44 (d, 1H), 7.48 (m, 1H), 7.70 (s, 1H), 7.85 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide | 0.10 mmol, 50 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC(C)C)C=CC2C)S(=O)C)=O | C24H23F2N5O3S
reactant | pyrrolidine | 0.30 mmol, 0.025 mL | N1CCCC1 | C4H9N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-[8-(2,6-difluorophenyl)-7-oxo-2-(1-pyrrolidinyl)-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide | 34 mg, 67% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC(C)C)C=CC2C)N2CCCC2)=O | C27H28F2N6O2
